US09278910B2
Prepared using General Procedure 8: To a stirring solution of 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-18 (1.38 g, 3.92 mmol), tert-butyl 2-((4-iodobenzyl)amino)acetate INT-35 (1.36 g, 3.92 mmol) and TEA (0.82 ml, 5.88 mmol) in DMF (8 mL) was added HATU (1.56 g, 4.11 mmol). After stirring at room temperature for 2 h, the reaction mixture was diluted with EA (150 mL) and washed successively with NaHCO3 (100 mL) and brine (100 mL). The organics were pre-absorbed onto silica gel and then purified by chromatography (EA/isohexanes) to afford 2.05 g (75%) of tert-butyl 2-(N-(4-iodobenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-36. LCMS-ESI (m/z) calculated for C30H30F3IN2O5: 682; found 627 [M−tBu+H]+, tR=2.90 min (Method 10). 1H NMR (400 MHz, DMSO) δ 10.33 (s, 1H), 7.76-7.68 (m, 2H), 7.62 (dd, J=7.0, 1.8 Hz, 2H), 7.44 (d, J=8.3 Hz, 1H), 7.37-7.30 (m, 2H), 7.27-7.13 (m, 3H), 7.12-6.97 (s, 1H), 4.59 (s, 1H), 4.50 (s, 1H), 3.92 (m, 2H), 3.85 (s,2H), 3.83 (s, 3H), 1.41 (s, 4.5H), 1.31 (s, 4.5H).

reactant | 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | COC1=CC(=C(C=C1)CC(=O)NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H14F3NO4
reactant | tert-butyl 2-((4-iodobenzyl)amino)acetate | IC1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C13H18INO2
reactant | HATU | 4.11 mmol, 1.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-(N-(4-iodobenzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | 2.05 g, 75% | IC1=CC=C(CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C30H30F3IN2O5
